US04431667
Preparation of the compound 4-(trifluoromethoxy)benzoyl azide
A mixture of 5 grams (24 mmol) of 4-(trifluoromethoxy)benzoyl fluoride, 1.87 grams (29 mmol) of sodium azide, 0.2 grams of 18-Crown-6 ether, and 20 ml. of acetonitrile was stirred at room temperature for two hours under an atmosphere of dry nitrogen. The reaction mixture was diluted with diethyl ether, filtered and concentrated under reduced pressure, with a bath temperature of 40° C., to give the title compound as a turbid oil. IR showed adsorptions at 2280, 2240 and 1695 cm-1.

reactant | 4-(trifluoromethoxy)benzoyl fluoride | 24 mmol, 5 grams | FC(OC1=CC=C(C(=O)F)C=C1)(F)F | C8H4F4O2
reactant | sodium azide | 29 mmol, 1.87 grams | [N-]=[N+]=[N-].[Na+]
reactant | 18-Crown-6 ether | 0.2 grams | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | acetonitrile | C(C)#N | C2H3N
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-(trifluoromethoxy)benzoyl azide | FC(OC1=CC=C(C(=O)N=[N+]=[N-])C=C1)(F)F | C8H4F3N3O2
